data/rgd1/barriers/filtered.csv
rxn,smiles,ea
MR_203283_0,[C:1](/[C:5](=[C:4]([C:2](=[C:3](/[O:7][H:9])[H:10])\[O:6][H:8])/[H:11])[H:12])([H:13])([H:14])[H:15]>>[C:1]([C@@:5]1([H:12])[C@@:3]([O:7][H:9])([H:10])[C:2]([O:6][H:8])=[C:4]1[H:11])([H:13])([H:14])[H:15],52.77839750000766
MR_577935_0,[C:1]([C:2]([H:14])([H:15])[H:16])([N:3]([C:5]([N:4]([O:7][H:10])[H:11])=[O:8])[O:6][H:9])([H:12])[H:13]>>[C:1]([C:2]([H:14])([H:15])[H:16])([C:5]([N:3]([N:4]([O:7][H:10])[H:11])[O:6][H:9])=[O:8])([H:12])[H:13],70.2304275000327
MR_410610_2,[C:1]1([C:2]([H:13])([H:14])[H:15])([H:10])[C:3]([C:4]([N:5]([H:11])[H:12])=[C:7]([H:18])[H:19])([O:8][H:9])[C:6]1([H:16])[H:17]>>[C:1]([C:2]([H:13])([H:14])[H:15])([C:3]([C:4]([N:5]([H:11])[H:12])=[C:7]([H:18])[H:19])=[C:6]([H:16])[H:17])([O:8][H:9])[H:10],68.75517499997642
MR_206789_2,[C:1](=[C:4]([N:6]([C:2]([N:3]([H:9])[H:10])=[O:7])[O:5][H:8])[H:13])([H:11])[H:12]>>[C:1]([C:2]([N:3]([H:9])[H:10])=[O:7])(/[C:4](=[N:6]/[O:5][H:8])[H:13])([H:11])[H:12],57.698624999998174
MR_480933_1,[C:1]1([H:8])=[N:6][C:3]2([H:10])[C:2]1([C:4](=[C:5]([H:12])[H:13])[H:11])[N:7]2[H:9]>>[C:1]1(/[C:2]([C:4](=[C:5]([H:12])[H:13])[H:11])=[N:7]/[H:9])([H:8])[C:3]([H:10])=[N:6]1,33.18031749997914
MR_534235_0,[C:1]([C:5]([C:2]([H:18])([H:19])[H:20])[C:4](/[C:3]([N:7]([H:12])[H:13])=[N:9]/[N:6]([H:10])[H:11])[N:8]([H:14])[H:15])([H:16])([H:17])[H:21]>>[C:1]([C:5]1([C:2]([H:18])([H:19])[H:20])[C:4]([N:8]([H:14])[H:15])=[C:3]([N:7]([H:12])[H:13])[N:9]1[N:6]([H:10])[H:11])([H:16])([H:17])[H:21],43.46692500001083
MR_676193_0,[C:1]1([C:3]([C:7](=[C:4]([N:5]([H:10])[H:11])[N:6]([H:12])[H:13])[H:18])([H:16])[H:17])([H:9])[C:2]([H:14])([H:15])[O:8]1>>[C@@:1]1([C:3]([C:7](=[C:4]([N:5]([H:10])[H:11])[N:6]([H:12])[H:13])[H:18])([H:16])[H:17])([H:9])[C:2]([H:14])([H:15])[O:8]1,66.36440000002011
MR_184780_1,[C:1]([C:2]([H:10])([H:11])[H:12])([C:3](=[O:6])[H:9])([O:4][H:7])[O:5][H:8]>>[C@@:1]1([C:2]([H:10])([H:11])[H:12])([O:4][H:7])[C@@:3]([O:5][H:8])([H:9])[O:6]1,53.81314500003469
MR_112575_0,[C:1]1([O:6][H:8])([O:7][H:9])[C:2]2([C:3]([H:10])([H:11])[O:5]2)[O:4]1>>[C:1]([C:2]1([O:4][H:8])[C:3]([H:10])([H:11])[O:5]1)(=[O:6])[O:7][H:9],10.343082499996116
MR_463675_0,[C:1]1([O:6][H:8])([H:11])[N:2]([H:9])[O:5][C:4](=[O:7])[N:3]1[H:10]>>[C:1](\[N:2]([O:5][C:4]([O:6][H:8])=[O:7])[H:9])(=[N:3]/[H:10])[H:11],60.47342999998364
MR_511709_0,[C@:1]([C:2]([H:12])([H:13])[H:14])([N:4]([H:9])[H:10])(/[C:5](=[N:7]\[C:3]([H:15])([H:16])[H:17])[H:11])[O:6][H:8]>>[C@@:1]1([C:2]([H:12])([H:13])[H:14])([O:6][H:8])[C@:5]([N:4]([H:9])[H:10])([H:11])[N:7]1[C:3]([H:15])([H:16])[H:17],66.92287500003687
MR_547233_2,[C:1](\[C:3]([C:5]([C:2]([O:6][H:10])=[O:7])([O:9][H:12])[H:14])=[O:8])(=[N:4]/[H:13])[H:11]>>[C:1]([C:2]([O:6][H:10])=[O:7])([C:3]([C:5](=[O:9])[H:14])=[O:8])([N:4]([H:12])[H:13])[H:11],42.73714249999856
MR_694670_0,[C:1]1([C:4](=[C:5]([N:7]([H:12])[H:13])[N:8]([H:14])[H:15])[N:6]([H:10])[H:11])([H:9])[C:2]([H:16])([H:17])[C:3]1([H:18])[H:19]>>[C:1]1([H:9])=[C:4]([N:6]([H:10])[H:11])[C:5]([N:7]([H:12])[H:13])([N:8]([H:14])[H:15])[C:3]([H:18])([H:19])[C:2]1([H:16])[H:17],59.80639749999128
MR_689972_0,[C:1](/[N:7]=[C:6](/[N:2]([N:3]([N:5]([H:11])[H:12])[H:8])[N:4]([H:9])[H:10])[H:13])([H:14])([H:15])[H:16]>>[C:1]([N:7]1[N:2]([N:4]([H:9])[H:10])[C@@:6]1([N:3]([N:5]([H:11])[H:12])[H:8])[H:13])([H:14])([H:15])[H:16],49.00461249997619
MR_532261_0,[C:1](/[C:2]([O:4][N:3]([H:8])[H:9])=[N:6]\[O:5][H:7])([H:10])([H:11])[H:12]>>[C:1]([C@:2]1([N:3]([H:8])[H:9])[O:4][N:6]1[O:5][H:7])([H:10])([H:11])[H:12],67.5321775000323
MR_240322_0,[C:1](/[N:7]=[C:2](/[O:5]/[C:3]([N:4]([H:10])[H:11])=[N:8]/[H:12])[O:6][H:9])([H:13])([H:14])[H:15]>>[C:1]([N:7]([C:2](=[O:5])[O:6][H:9])/[C:3]([N:4]([H:10])[H:11])=[N:8]/[H:12])([H:13])([H:14])[H:15],37.36511500000731
MR_177949_0,[C:1]([C:3]([C:2]([C:6]([H:21])([H:22])[H:23])([C:7]([H:24])([H:25])[H:26])[C:8](=[O:10])[H:14])([H:12])[H:13])([C:4]([H:15])([H:16])[H:17])([C:5]([H:18])([H:19])[H:20])[O:9][H:11]>>[C:1]([C:3]([C:2]([C:6]([H:21])([H:22])[H:23])([C:7]([H:24])([H:25])[H:26])[C:8]([C:5]([H:18])([H:19])[H:20])([O:10][H:11])[H:14])([H:12])[H:13])([C:4]([H:15])([H:16])[H:17])=[O:9],61.162425000027554
MR_397019_1,[C:1]([C:4]([H:18])([H:19])[H:20])([C:6]([N:5]([C:2]([H:12])([H:13])[H:15])[C:3]([H:14])([H:16])[H:17])=[O:9])([O:7][H:10])[O:8][H:11]>>[C:1]1([C:4]([H:18])([H:19])[H:20])([O:7][H:10])[C:6]([N:5]([C:2]([H:12])([H:13])[H:15])[C:3]([H:14])([H:16])[H:17])([O:8][H:11])[O:9]1,70.11183000001111
MR_367361_1,[C:1]([C:2]([H:14])([H:16])[H:17])([C:3]([H:15])([H:18])[H:19])(/[C:5]([N:7]([H:12])[H:13])=[N:9]/[O:8][H:11])[C:6]([C:4]([H:20])([H:21])[H:22])=[O:10]>>[C:1]([C:2]([H:14])([H:16])[H:17])([C:3]([H:15])([H:18])[H:19])=[C:5]([N:7]([H:12])[H:13])[N:9]([C:6]([C:4]([H:20])([H:21])[H:22])=[O:10])[O:8][H:11],45.377035000003616
